US05036086
Preparation of 2-(methoxyacetylamino)-6-methylbenzothiazole:
2-Amino-6-methylbenzothiazole (4.9 g) is dissolved in pyridine (100 ml) and thereto is added dropwise methoxyacetyl chloride (3.0 ml) at room temperature. After the mixture is stirred at room temperature for 2 hours, the solvent is distilled off. The resulting oil is solidified with addition of water. The obtained solids are filtered off and washed with water, then with diethyl ether, dried and recrystallized from ethanol to give the title compound (4.1 g) having the following physical properties.

reactant | 2-Amino-6-methylbenzothiazole | 4.9 g | NC=1SC2=C(N1)C=CC(=C2)C | C8H8N2S
reactant | methoxyacetyl chloride | 3.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(methoxyacetylamino)-6-methylbenzothiazole | 4.1 g | COCC(=O)NC=1SC2=C(N1)C=CC(=C2)C | C11H12N2O2S
